US05734064
Analogous example 3 2,76 g (0.024 mol) of N-hydroxysuccinimide and 5.06 g (0,050 mol) of triethylamine were initially introduced into 5 ml of ethyl acetate and stirred at room temperature. 2.72 g (0.020 mol) of solid 4-toluic acid were added to this suspension in the course of 5 min. and then a solution of 3.47 g (0,020 mol) of diethyl chlorophosphate was added dropwise in the course of 20 min., the reaction mixture warming to about 35° C. The mixture was stirred at room temperature for 3 hours until the reaction was complete. The further proceeding was performed analogous example 3. 2.8 g of crude 4-toluic acid succinimidyl ester were isolated.

reactant | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
reactant | triethylamine | 0,050 mol, 5.06 g | C(C)N(CC)CC | C6H15N
reactant | 4-toluic acid | C1(=CC=C(C=C1)C(=O)O)C | C8H8O2
reactant | diethyl chlorophosphate | 0,020 mol, 3.47 g | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 4-toluic acid succinimidyl ester | 2.8 g | C1(CCC(N1OC(=O)C1=CC=C(C=C1)C)=O)=O | C12H11NO4
